US06831080B2
Step C: 2,2,2-Trifluoro-1-(3-morpholin-4-yl-phenyl)ethanone oxime
A mixture of 1-(3-aminophenyl)-2,2,2-trifluoroethanone oxime (1.7 g), bromoethyl ether (2.246 g), and i-Pr2NEt (2.57 g) in toluene (20 mL) was refluxed for 4 hours. After cooling, the reaction mixture was quenched with water. The aqueous layer was extracted with dichloromethane, and the combined organic layers were dried over magnesium sulphate, filtered and concentrated in vacuo. The crude product was purified by silica gel flash chromatography (50% ethyl acetate in hexane) to give the title compound as an oil (2.04 g).

reactant | 1-(3-aminophenyl)-2,2,2-trifluoroethanone oxime | 1.7 g | NC=1C=C(C=CC1)C(C(F)(F)F)=NO | C8H7F3N2O
reactant | bromoethyl ether | 2.246 g | BrCCOCCBr | C4H8Br2O
reactant | i-Pr2NEt | 2.57 g | CCN(C(C)C)C(C)C | C8H19N
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 2,2,2-Trifluoro-1-(3-morpholin-4-yl-phenyl)ethanone oxime | 2.04 g | FC(C(=NO)C1=CC(=CC=C1)N1CCOCC1)(F)F | C12H13F3N2O2
